US08685986B2
1-(c) {6-[(6-Phenylpyridazin-3-ylmethyl)(pyridin-3-ylsulfonyl)aminomethyl]pyridin-2-ylamino}acetic Acid Hydrochloride
To a solution of tert-butyl(tert-butoxycarbonyl{6-[(6-phenylpyridazin-3-ylmethyl)(pyridin-3-ylsulfonyl)aminomethyl]pyridin-2-yl}amino)acetate (150 mg, 0.232 mmol) obtained in Example 1-(b) in methylene chloride (9.2 ml) was added a 4N hydrogen chloride/1,4-dioxane solution (2.3 ml), and the mixture was left at room temperature for 23 hours. After completion of the reaction, the reaction solution was concentrated under reduced pressure to afford the title compound (144 mg) substantially quantitatively as a white solid.

reactant | tert-butyl(tert-butoxycarbonyl{6-[(6-phenylpyridazin-3-ylmethyl)(pyridin-3-ylsulfonyl)aminomethyl]pyridin-2-yl}amino)acetate | 0.232 mmol, 150 mg | C(C)(C)(C)OC(CN(C1=NC(=CC=C1)C(NS(=O)(=O)C=1C=NC=CC1)CC=1N=NC(=CC1)C1=CC=CC=C1)C(=O)OC(C)(C)C)=O | C33H38N6O6S
reactant | hydrogen chloride 1,4-dioxane | 4N, 2.3 ml | Cl.O1CCOCC1
solvent | methylene chloride | 9.2 ml | C(Cl)Cl | CH2Cl2
product | {6-[(6-Phenylpyridazin-3-ylmethyl)(pyridin-3-ylsulfonyl)aminomethyl]pyridin-2-ylamino}acetic Acid Hydrochloride | 144 mg | Cl.C1(=CC=CC=C1)C1=CC=C(N=N1)CC(C1=CC=CC(=N1)NCC(=O)O)NS(=O)(=O)C=1C=NC=CC1 | InChI=1S/C24H22N6O4S.ClH/c31-24(32)16-26-23-10-4-9-21(27-23)22(30-35(33,34)19-8-5-13-25-15-19)14-18-11-12-20(29-28-18)17-6-2-1-3-7-17;/h1-13,15,22,30H,14,16H2,(H,26,27)(H,31,32);1H
